US05565533
b) Preparation of 1,2-bis(4,7-dimethyl-3-indenyl)ethane
38.2 g (265 mmol) of 4,7-dimethylindene was dissolved in 350 ml of tetrahydrofuran and the solution was cooled to 0° C. Then 165 ml of n-butyllithium (1,6M in hexane, 264 mmol) was added dropwise over 2.5 hours. After warming to room temperature and stirring for 4 hours a purple solution of 4,7-dimethylindenyl-lithium was obtained. This solution was cooled to -70° C. and treated dropwise with 25,3 g of 1,2-dibromoethane (135 mmol) in 15 ml of tetrahydrofuran over 35 min. After warming to room temperature, a pale yellow solution was obtained, and then water was added. The organic phase was collected and dried over Na2SO4. The solvent was removed by vacuum evaporation to provide 20 g of crude product (48% yield).

reactant | 4,7-dimethylindene | 265 mmol, 38.2 g | CC1=C2C=CCC2=C(C=C1)C | C11H12
reactant | n-butyllithium | 264 mmol, 1,6M, 165 ml | C(CCC)[Li]
reactant | 4,7-dimethylindenyl-lithium | CC1=C2C=CC(C2=C(C=C1)C)[Li]
reactant | 1,2-dibromoethane | 135 mmol, 25,3 g | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1,2-bis(4,7-dimethyl-3-indenyl)ethane | 20 g, 48% yield | CC1=C2C(=CCC2=C(C=C1)C)CCC1=CCC2=C(C=CC(=C12)C)C | C24H26
